* File: dual_rail_and_nand.pex.netlist.pex
* Created: Sun Feb 27 01:36:39 2022
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DUAL_RAIL_AND_NAND%Y_L 15 20 22
c0 18 0 0.01395f
c1 15 0 0.07965f
c2 10 0 0.0378188f
c3 5 0 0.0297588f
r4 15 18 0.072
r5 11 20 4.38212
r6 10 11 10.8
r7 8 18 0.0134198
r8 8 10 0.57002
r9 6 22 5.66847
r10 5 6 10.4
r11 3 18 0.0134198
r12 3 5 0.43998
.ends

.subckt PM_DUAL_RAIL_AND_NAND%CLK 3 6 9 11 15 22
c3 30 0 0.0301f
c4 22 0 0.07965f
c5 17 0 0.00344f
c6 15 0 0.0343983f
c7 11 0 0.0481566f
c8 9 0 0.0343983f
c9 6 0 0.0197766f
c10 3 0 0.0498783f
r11 26 30 5.39
r12 22 26 9.6
r13 13 15 59.675
r14 12 17 0.847354
r15 11 13 4.30221
r16 11 12 100.1
r17 7 17 3.26053
r18 7 9 59.675
r19 6 17 3.26053
r20 5 30 3.88059
r21 5 6 44.275
r22 1 30 3.88059
r23 1 3 86.625
.ends

.subckt PM_DUAL_RAIL_AND_NAND%A_L 3 9
c1 17 0 0.0301f
c2 9 0 0.07965f
c3 3 0 0.0343983f
r4 13 17 5.39
r5 9 13 9.6
r6 1 17 3.88059
r7 1 3 51.975
.ends

.subckt PM_DUAL_RAIL_AND_NAND%B_L 3 9
c1 13 0 0.0301f
c2 9 0 0.07965f
c3 3 0 0.0240783f
r4 13 15 5.39
r5 9 13 9.6
r6 1 15 3.88059
r7 1 3 28.875
.ends

.subckt PM_DUAL_RAIL_AND_NAND%A_H 7 13
c0 17 0 0.0215f
c1 13 0 0.09558f
c2 7 0 0.0515983f
c3 4 0 0.00344f
c4 3 0 0.0111766f
c5 2 0 0.00859656f
r6 13 17 9.6
r7 5 7 75.075
r8 3 5 4.30221
r9 3 4 17.325
r10 2 17 6.71539
r11 1 4 4.30221
r12 1 2 19.25
.ends

.subckt PM_DUAL_RAIL_AND_NAND%B_H 3 9
c0 17 0 0.0301f
c1 9 0 0.07965f
c2 3 0 0.0636383f
r3 13 17 5.39
r4 9 13 9.6
r5 1 17 3.88059
r6 1 3 102.025
.ends

.subckt PM_DUAL_RAIL_AND_NAND%Y_H 16 20 22
c0 16 0 0.0936f
c1 10 0 0.0378188f
c2 5 0 0.0297588f
r3 13 16 0.072
r4 11 20 4.38212
r5 10 11 10.8
r6 8 13 0.0134198
r7 8 10 0.57002
r8 6 22 5.66847
r9 5 6 10.4
r10 3 13 0.0134198
r11 3 5 0.43998
.ends

.subckt PM_DUAL_RAIL_AND_NAND%8 3 7 11 13 14 21 44 45 47 48
c5 37 0 0.00496f
c6 36 0 0.00496f
c7 33 0 0.0167388f
c8 28 0 0.0396788f
c9 24 0 0.00743752f
c10 21 0 0.0266588f
c11 17 0 0.0301f
c12 14 0 0.00619876f
c13 13 0 0.0365457f
c14 11 0 0.0429983f
c15 7 0 0.0498783f
c16 3 0 0.0576183f
r17 33 34 9.6
r18 31 37 0.0338756
r19 31 33 0.32
r20 29 47 3.3
r21 29 48 3.3
r22 28 29 10.4
r23 26 37 0.00880368
r24 26 28 0.59998
r25 25 36 0.0338756
r26 24 37 0.0338756
r27 24 25 0.12
r28 22 44 6.52463
r29 22 45 6.52463
r30 21 22 10.8
r31 19 36 0.00880368
r32 19 21 0.43002
r33 17 40 5.39
r34 16 17 9.6
r35 14 36 0.0338756
r36 14 16 0.19
r37 13 34 6.16
r38 9 13 5.42059
r39 9 11 78.925
r40 5 40 3.88059
r41 5 7 86.625
r42 1 40 3.88059
r43 1 3 111.65
.ends

.subckt PM_DUAL_RAIL_AND_NAND%9 1 8 15 16 18
c2 12 0 0.00991876f
c3 9 0 0.00496f
c4 8 0 0.0223175f
c5 5 0 0.00991876f
r6 13 20 1.65
r7 13 18 3.3
r8 12 13 10.4
r9 10 12 0.12002
r10 8 10 0.0446983
r11 8 9 0.32
r12 6 15 3.3
r13 6 16 3.3
r14 5 6 10.4
r15 3 9 0.0446983
r16 3 5 0.12002
r17 2 20 2.59735
r18 1 20 1.65
r19 1 2 4.24735
.ends

.subckt PM_DUAL_RAIL_AND_NAND%10 3 7 11 13 15 27 30 32 45 46
c5 43 0 0.0301f
c6 32 0 0.00619876f
c7 30 0 0.0124f
c8 27 0 0.0557988f
c9 22 0 0.0130188f
c10 18 0 0.0301f
c11 15 0 0.0161188f
c12 11 0 0.0275183f
c13 7 0 0.0816983f
c14 3 0 0.0206383f
r15 35 36 0.16
r16 33 43 5.39
r17 32 33 9.6
r18 30 36 0.04
r19 30 32 0.19
r20 27 28 10.4
r21 25 36 0.0046983
r22 25 27 0.85998
r23 23 45 6.52463
r24 23 46 6.52463
r25 22 23 10.8
r26 20 35 0.0046983
r27 20 22 0.17002
r28 18 37 5.39
r29 17 18 9.6
r30 15 35 0.04
r31 15 17 0.35
r32 14 28 1.98375
r33 13 28 1.76338
r34 13 14 4.84451
r35 9 43 3.88059
r36 9 11 36.575
r37 5 43 3.88059
r38 5 7 161.7
r39 1 37 3.88059
r40 1 3 28.875
.ends

.subckt PM_DUAL_RAIL_AND_NAND%GND 1 4 7 8 12 14 38 69 70 72
c6 54 0 0.00248f
c7 52 0 0.0301f
c8 42 0 0.0635481f
c9 38 0 0.0557975f
c10 35 0 0.128955f
c11 32 0 0.0229388f
c12 27 0 0.0359575f
c13 16 0 0.00515656f
c14 15 0 0.00688f
c15 14 0 0.0189166f
c16 12 0 0.0206331f
c17 9 0 0.00688f
c18 8 0 0.00344f
c19 7 0 0.0481566f
c20 6 0 0.00515656f
c21 5 0 0.00688f
c22 2 0 0.0275166f
r23 52 59 5.39
r24 51 54 0.05
r25 51 52 9.6
r26 43 72 5.66847
r27 42 43 10.4
r28 40 54 0.0046983
r29 40 42 0.69998
r30 38 44 0.0184246
r31 38 44 0.0725
r32 38 42 0.33002
r33 36 38 0.0184246
r34 36 38 0.26
r35 35 38 0.0184246
r36 35 38 0.26
r37 33 69 3.59117
r38 33 70 5.0525
r39 32 38 0.33002
r40 32 33 10.4
r41 27 38 0.0184246
r42 27 38 0.0725
r43 15 16 11.55
r44 13 59 3.88059
r45 13 14 42.35
r46 10 15 4.81186
r47 10 12 6.7375
r48 9 14 4.81186
r49 9 12 4.8125
r50 7 16 4.30221
r51 7 8 100.1
r52 6 8 4.30221
r53 5 6 11.55
r54 2 5 4.81186
r55 2 4 6.7375
r56 1 38 10.8
r57 1 38 10.8
.ends

.subckt PM_DUAL_RAIL_AND_NAND%VDD 1 24 29 32 47 53 54 56 57 59 60
c5 47 0 0.0657175f
c6 37 0 0.0148788f
c7 32 0 0.059515f
c8 29 0 0.0124f
c9 24 0 0.059515f
c10 21 0 0.0148788f
c11 16 0 0.0359575f
r12 40 47 0.0184246
r13 40 47 0.0725
r14 38 59 4.08087
r15 38 60 5.74148
r16 37 47 0.19998
r17 37 38 10.8
r18 33 47 0.0184246
r19 33 47 0.12
r20 32 47 0.0184246
r21 32 47 0.12
r22 30 56 6.52463
r23 30 57 6.52463
r24 29 47 0.19998
r25 29 30 10.8
r26 25 47 0.0184246
r27 25 47 0.12
r28 24 47 0.0184246
r29 24 47 0.12
r30 22 53 5.74148
r31 22 54 4.08087
r32 21 47 0.19998
r33 21 22 10.8
r34 16 47 0.0184246
r35 16 47 0.0725
r36 1 47 10.4
r37 1 47 10.4
r38 1 47 10.4
.ends

.subckt PM_DUAL_RAIL_AND_NAND%13 1 2
r0 1 2 1.65
.ends

.subckt PM_DUAL_RAIL_AND_NAND%14 1 2
r0 1 2 7.5
.ends

.subckt PM_DUAL_RAIL_AND_NAND%15 1 2
r0 1 2 7.5
.ends

