* File: inv_hskew.pex.netlist
* Created: Thu Mar  3 19:52:11 2022
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* 
.include "inv_hskew.pex.netlist.pex"
.subckt INV_HSKEW  X Y GND VDD
* 
* VDD	VDD
* GND	GND
* Y	Y
* X	X
M0 N_Y_M0_d N_X_M0_g N_GND_M0_s N_GND_M0_b n L=1.8e-07 W=2.7e-07 AD=2.997e-13
+ AS=2.997e-13
M1 N_Y_M1_d N_X_M1_g N_VDD_M1_s N_VDD_M1_b p L=1.8e-07 W=1.08e-06 AD=4.9005e-13
+ AS=4.9005e-13
*
.include "inv_hskew.pex.netlist.INV_HSKEW.pxi"
*
.ends
*
*
