* File: inv_hskew.pex.netlist.pex
* Created: Thu Mar  3 19:52:11 2022
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INV_HSKEW%X 3 7 24
c2 24 0 0.07965f
c3 20 0 0.0301f
c4 7 0 0.0662183f
c5 3 0 0.0662183f
r6 16 20 5.39
r7 12 16 9.6
r8 12 24 4.29
r9 5 20 3.88059
r10 5 7 115.5
r11 1 20 3.88059
r12 1 3 125.125
.ends

.subckt PM_INV_HSKEW%Y 1 4 34
c0 34 0 0.06372f
c1 26 0 0.0130175f
c2 24 0 0.00775f
c3 21 0 0.00806f
c4 16 0 0.0260388f
c5 11 0 0.0353388f
r6 24 27 0.0434143
r7 24 26 0.0434463
r8 24 34 4.29
r9 19 21 0.05
r10 17 30 1.31868
r11 16 17 10.4
r12 14 21 0.0046983
r13 14 16 0.37998
r14 11 27 0.53002
r15 11 12 10.8
r16 7 19 0.0046983
r17 7 26 0.21
r18 3 30 2.01556
r19 3 4 8.8
r20 2 12 2.25379
r21 1 12 2.00432
r22 1 2 4.60915
.ends

.subckt PM_INV_HSKEW%GND 1 3 6 16
c1 14 0 0.02604f
c2 11 0 0.00867876f
c3 6 0 0.0533175f
r4 14 23 0.01999
r5 14 16 0.055
r6 12 30 1.31868
r7 11 12 10.4
r8 6 23 0.0325
r9 6 23 0.031483
r10 6 16 0.0525
r11 6 11 0.10002
r12 4 30 2.01556
r13 3 4 8.8
r14 1 23 10.8
.ends

.subckt PM_INV_HSKEW%VDD 1 2 6 20
c1 15 0 0.0173588f
c2 10 0 0.0223175f
c3 6 0 0.0570375f
r4 18 20 0.03
r5 15 16 10.8
r6 6 10 0.0184246
r7 6 18 0.0184246
r8 6 20 0.065
r9 6 15 0.23998
r10 6 10 0.045
r11 3 16 2.25379
r12 2 16 2.00432
r13 2 3 4.60915
r14 1 6 10.4
.ends

