* HSPICE netlist generated with ICnet by 'bd68' on Mon Feb 28 2022 at 01:08:58

.subckt NAND3_DYN  CLK A B Y C X

*
* Globals.
*
.global VDD GND

        MN4 N_12_ESC1 CLK GND GND n L=2 W=16
        MN3 N_8_ESC2 C N_12_ESC1 GND n L=2 W=16
        MN2 N_4_ESC3 B N_8_ESC2 GND n L=2 W=16
        MN1 X A N_4_ESC3 GND n L=2 W=16
        MP3 X CLK VDD VDD p L=2 W=4
        MP2 X Y N_21_ESC4 VDD p L=2 W=4
        MP1 N_21_ESC4 GND VDD VDD p L=4 W=4
.ends NAND3_DYN

