* File: nand2_dyn.pex.netlist.pex
* Created: Sun Feb 27 22:08:13 2022
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND2_DYN%CLK 5 9 13 25 29
c4 29 0 0.08496f
c5 25 0 0.0679366f
c6 22 0 0.0215f
c7 13 0 0.01032f
c8 9 0 0.0292383f
c9 5 0 0.0300983f
r10 22 26 6.71231
r11 22 25 6.71539
r12 18 22 9.6
r13 18 29 4.29
r14 11 13 15.4
r15 7 13 0.452212
r16 7 9 32.725
r17 5 26 50.05
r18 1 11 0.452212
r19 1 25 152.075
.ends

.subckt PM_NAND2_DYN%B 3 19
c1 19 0 0.09558f
c2 12 0 0.0215f
c3 3 0 0.0378383f
r4 12 15 6.71539
r5 8 12 9.6
r6 8 19 4.29
r7 3 15 51.975
.ends

.subckt PM_NAND2_DYN%Y 3 19
c1 19 0 0.09558f
c2 12 0 0.0215f
c3 3 0 0.0300983f
r4 12 16 6.71231
r5 8 12 9.6
r6 8 19 4.29
r7 3 16 50.05
.ends

.subckt PM_NAND2_DYN%A 3 20
c1 20 0 0.07965f
c2 16 0 0.0301f
c3 3 0 0.0533183f
r4 12 16 5.39
r5 8 12 9.6
r6 8 20 4.29
r7 1 16 3.88059
r8 1 3 86.625
.ends

.subckt PM_NAND2_DYN%X 1 10 24 25 29
c2 29 0 0.06372f
c3 20 0 0.00775f
c4 18 0 0.0291375f
c5 14 0 0.0353388f
c6 11 0 0.00496f
c7 10 0 0.0148775f
c8 7 0 0.00991876f
r9 20 23 0.0434143
r10 20 22 0.0434463
r11 20 29 4.29
r12 18 23 0.47
r13 14 22 0.52998
r14 14 15 10.4
r15 10 18 0.0446983
r16 10 11 0.24
r17 8 24 6.52463
r18 8 25 6.52463
r19 7 8 10.8
r20 5 11 0.0446983
r21 5 7 0.12002
r22 2 15 1.98375
r23 1 15 1.76338
r24 1 2 4.05605
.ends

.subckt PM_NAND2_DYN%GND 1 4 6 9 12 22 26 29
c7 31 0 0.0117788f
c8 29 0 0.00248f
c9 22 0 0.0421588f
c10 16 0 0.0260375f
c11 12 0 0.0855575f
c12 7 0 0.0322457f
c13 6 0 0.0283766f
c14 2 0 0.0309566f
r15 31 32 9.6
r16 29 31 0.24
r17 24 26 0.08
r18 22 23 10.4
r19 20 29 0.0446983
r20 20 22 0.77998
r21 12 16 0.0184246
r22 12 24 0.0184246
r23 12 26 0.0725
r24 12 22 0.24002
r25 12 16 0.0525
r26 10 23 1.98375
r27 9 23 1.76338
r28 9 10 4.05605
r29 7 32 4.62
r30 5 7 5.42059
r31 5 6 63.525
r32 2 6 4.81186
r33 2 4 4.8125
r34 1 12 10.8
.ends

.subckt PM_NAND2_DYN%VDD 1 18 34 36
c0 21 0 0.00867876f
c1 18 0 0.02604f
c2 16 0 0.02604f
c3 15 0 0.059515f
c4 12 0 0.00867876f
r5 22 36 6.44144
r6 21 22 10.8
r7 18 30 0.0325
r8 18 30 0.031483
r9 18 27 0.0325
r10 18 27 0.031483
r11 18 21 0.09998
r12 16 27 0.02
r13 16 18 0.12
r14 15 30 0.02
r15 15 18 0.12
r16 13 34 6.44144
r17 12 18 0.09998
r18 12 13 10.8
r19 1 30 10.4
r20 1 27 10.4
.ends

.subckt PM_NAND2_DYN%8 1 2
r0 1 2 2.2
.ends

.subckt PM_NAND2_DYN%9 1 2
r0 1 2 2.2
.ends

.subckt PM_NAND2_DYN%10 1 2
r0 1 2 7.5
.ends

