* File: nand3_dyn.pex.netlist.pex
* Created: Mon Feb 28 10:48:06 2022
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND3_DYN%CLK 5 9 13 25 29
c4 29 0 0.08496f
c5 25 0 0.0584766f
c6 22 0 0.0215f
c7 13 0 0.01032f
c8 9 0 0.0386983f
c9 5 0 0.0300983f
r10 22 26 6.71231
r11 22 25 6.71539
r12 18 22 9.6
r13 18 29 4.29
r14 11 13 15.4
r15 7 13 0.452212
r16 7 9 46.2
r17 5 26 50.05
r18 1 11 0.452212
r19 1 25 130.9
.ends

.subckt PM_NAND3_DYN%C 5 24
c1 24 0 0.09558f
c2 18 0 0.0215f
c3 9 0 0.00946f
c4 5 0 0.0472983f
c5 2 0 0.00945656f
r6 14 18 9.6
r7 14 24 4.29
r8 7 9 13.475
r9 3 9 0.452212
r10 3 5 65.45
r11 2 18 6.71539
r12 1 7 0.452212
r13 1 2 21.175
.ends

.subckt PM_NAND3_DYN%Y 3 19
c1 19 0 0.09558f
c2 12 0 0.0215f
c3 3 0 0.0300983f
r4 12 16 6.71231
r5 8 12 9.6
r6 8 19 4.29
r7 3 16 50.05
.ends

.subckt PM_NAND3_DYN%B 3 19
c1 19 0 0.09558f
c2 12 0 0.0215f
c3 3 0 0.0558983f
r4 12 15 6.71539
r5 8 12 9.6
r6 8 19 4.29
r7 3 15 84.7
.ends

.subckt PM_NAND3_DYN%A 3 20
c1 20 0 0.07965f
c2 16 0 0.0301f
c3 3 0 0.0722383f
r4 12 16 5.39
r5 8 12 9.6
r6 8 20 4.29
r7 1 16 3.88059
r8 1 3 121.275
.ends

.subckt PM_NAND3_DYN%X 1 10 22 23 27
c2 27 0 0.06372f
c3 20 0 0.00775f
c4 18 0 0.0136375f
c5 14 0 0.0458788f
c6 11 0 0.00496f
c7 10 0 0.0223175f
c8 7 0 0.00991876f
r9 20 27 4.29
r10 17 20 0.0434143
r11 17 18 0.22
r12 14 15 10.4
r13 12 20 0.0434463
r14 12 14 0.69998
r15 10 18 0.0446983
r16 10 11 0.36
r17 8 22 6.52463
r18 8 23 6.52463
r19 7 8 10.8
r20 5 11 0.0446983
r21 5 7 0.12002
r22 2 15 1.98375
r23 1 15 1.76338
r24 1 2 4.84451
.ends

.subckt PM_NAND3_DYN%GND 1 4 6 8 11 21 25 28
c8 31 0 0.0215f
c9 30 0 0.0167388f
c10 28 0 0.00248f
c11 21 0 0.0455688f
c12 15 0 0.0260375f
c13 11 0 0.0954775f
c14 6 0 0.0283766f
c15 2 0 0.0309566f
r16 30 31 9.6
r17 28 30 0.32
r18 23 25 0.09
r19 21 22 10.4
r20 19 28 0.0446983
r21 19 21 0.69998
r22 11 15 0.0184246
r23 11 23 0.0184246
r24 11 25 0.0825
r25 11 21 0.32002
r26 11 15 0.0525
r27 9 22 1.98375
r28 8 22 1.76338
r29 8 9 4.84451
r30 5 31 6.71231
r31 5 6 63.525
r32 2 6 4.81186
r33 2 4 4.8125
r34 1 11 10.8
.ends

.subckt PM_NAND3_DYN%VDD 1 20 37 39
c0 23 0 0.00867876f
c1 17 0 0.02604f
c2 16 0 0.059515f
c3 13 0 0.00867876f
c4 5 0 0.0359575f
r5 24 39 6.44144
r6 23 24 10.8
r7 17 32 0.02
r8 16 20 0.09
r9 14 37 6.44144
r10 13 14 10.8
r11 5 16 0.0184246
r12 5 26 0.0184246
r13 5 32 0.0325
r14 5 32 0.031483
r15 5 26 0.0525
r16 5 23 0.09998
r17 5 20 0.03
r18 5 17 0.12
r19 5 13 0.09998
r20 1 5 10.4
r21 1 32 10.4
.ends

.subckt PM_NAND3_DYN%9 1 2
r0 1 2 1.65
.ends

.subckt PM_NAND3_DYN%10 1 2
r0 1 2 1.65
.ends

.subckt PM_NAND3_DYN%11 1 2
r0 1 2 1.65
.ends

.subckt PM_NAND3_DYN%12 1 2
r0 1 2 7.5
.ends

